* source CONVERTIDOR AC-DC
X_U17         E_SQR 0 /VALFA_N 0 -VCC_CON -50MV N16288 +VCC_CON AD633/AD
R_R31         VALFA N15996  15k  
R_R32         N15996 N16288  3.0k  
X_U16         0 N15996 +VCC_CON -VCC_CON /VALFA_N OPA350
X_U13         0 VALFA VALFA 0 -VCC_CON 0 VALFA_SQR +VCC_CON AD633/AD
X_U15         0 VBETA VBETA 0 -VCC_CON 0 VBETA_SQR +VCC_CON AD633/AD
X_U14         0 N14775 +VCC_CON -VCC_CON E_SQR OPA350
R_R74         N14775 E_SQR  10k  
R_R75         VALFA_SQR N14775  10k  
R_R76         VBETA_SQR N14775  10k  
R_R36         VBETA N17409  15k  
R_R37         N17409 N17437  3.0k  
X_U18         0 N17409 +VCC_CON -VCC_CON /VBETA_N OPA350
X_U19         E_SQR 0 /VBETA_N 0 -VCC_CON 0 N17437 +VCC_CON AD633/AD
X_U21         0 /VBETA_N N18560 0 -VCC_CON 0 IBETA_REF +VCC_CON AD633/AD
X_U20         0 /VALFA_N N18560 0 -VCC_CON 0 IALFA_REF +VCC_CON AD633/AD
R_R1         VEA N18560  10k  
R_R2         N18560 0  20k  
V_Valfa         VALFA 0  
+SIN 0 4.72Vp 50Hz 0 0 0
V_Vbeta         VBETA 0  
+SIN 0 4.72Vp 50Hz 0 0 -90
V_V5         0 -VCC_CON 15V
V_V4         +VCC_CON 0 15V
R_R1003         0 IBETA_REF  1MEG  
R_R1002         0 IALFA_REF  1MEG  
V_V7         VEA 0  
+PULSE -10V +10V 20ms 20ms 20ms 20ms 80ms
R_R1004         -50MV -VCC_CON  299k  
R_R1005         0 -50MV  1k  
