* source CONVERTIDOR AC-DC
V_Valfa         IALFA 0  
+SIN 0 5Vp 50Hz 0 0 0
V_Vbeta         IBETA 0  
+SIN 0 5Vp 50Hz 0 0 -90
V_V4         +VCC_CON 0 15V
V_V5         0 -VCC_CON 15V
V_Vbeta_ref         IBETA_REF 0  
+SIN 0 3Vp 50Hz 0 0 -90
V_Valfa_ref         IALFA_REF 0  
+SIN 0 3Vp 50Hz 0 0 0
R_R4         N25436 0  10k  
R_R3         IALFA_REF N25436  10k  
X_U22-A         N25436 N25412 +VCC_CON -VCC_CON N25424 OPA350
R_R11         IBETA_REF N25638  10k  
R_R7         N25460 N31425  1k  
R_R9         N25412 N25424  10k  
R_R8         IALFA N25412  10k  
R_R13         N25626 N25662  20k  
R_R12         N25638 0  10k  
X_U22-B         0 N25460 +VCC_CON -VCC_CON D_ALFA OPA350
R_R5         N25424 N25460  20k  
X_U23-B         0 N25662 +VCC_CON -VCC_CON D_BETA OPA350
R_R15         N25662 N31521  1k  
R_R17         N25614 N25626  10k  
X_U23-A         N25638 N25614 +VCC_CON -VCC_CON N25626 OPA350
R_R16         IBETA N25614  10k  
X_U25         N26909 D_A +VCC_CON -VCC_CON D_A OPA350
X_U24         0 N27097 +VCC_CON -VCC_CON N27085 OPA350
X_U26         0 N27145 +VCC_CON -VCC_CON D_B OPA350
X_U27         0 N27198 +VCC_CON -VCC_CON D_C OPA350
R_R113         D_ALFA N26909  3.65k  
R_R114         0 N26909  16.2k  
R_R115         D_ALFA N27145  29.4k  
R_R116         D_BETA N27097  12.0k  
R_R118         N27085 N27145  16.9k  
R_R119         N27145 D_B  12.0k  
R_R120         D_ALFA N27198  29.4k  
R_R121         D_BETA N27198  16.9k  
R_R122         N27198 D_C  12.0k  
R_R117         N27097 N27085  12.0k  
X_D1         N25460 N31044 MMSZ5231BT1
X_D2         D_ALFA N31044 MMSZ5231BT1
X_D3         N25662 N31080 MMSZ5231BT1
X_D4         D_BETA N31080 MMSZ5231BT1
C_C1         N31425 D_ALFA  100nF  
C_C2         N31521 D_BETA  100nF  
R_R123         N25460 D_ALFA  10MEG  
