* source CONVERTIDOR AC-DC
C_C47         N09120 N09220  3.9nF  
R_RpIa         N08902 N08852  1k  
E_E2Ia         N08998 N08974 N08852 0 1
R_R57         N09230 N09206  80k  
C_CpIa         0 N08852  530pF  
X_H1Ia    0 N09282 N08902 0 Flyback_H1Ia 
V_VDCIa         N08974 0 2.5V
V_V4         +15V 0 15
V_V2         +5V1 0 5
V_V3         +5V2 0 5
V_V10         N09282 0  
+PULSE 0.02 0.08 0.0001 5u 50u 10u 150u
V_V5         0 -15V 15
R_R9         N09947 N09891  100 TC=0,0 
R_R10         0 N09891  1meg TC=0,0 
C_C2         0 N09955  100n  TC=0,0 
C_C1         N09973 N09891  100n  TC=0,0 
R_R8         N09955 N09973  33k TC=0,0 
R_R5         VOUT N09955  33k TC=0,0 
X_U2         N09973 N09947 +5V 0 N09891 OPA237/BB
R_R60         N09282 0  1  
X_U1         N09206 N09220 N09120 +15V 0 VOUT -15V N09230 INA126P/BB
R_R61         N08998 N09120  680 TC=0,0 
R_R62         N08974 N09220  680 TC=0,0 

.subckt Flyback_H1Ia 1 2 3 4  
H_H1Ia         3 4 VH_H1Ia 0.1042
VH_H1Ia         1 2 0V
.ends Flyback_H1Ia
