* source CONVERTIDOR AC-DC
V_V1         VLA 0  AC 12
+SIN 0 12 50 0 0 0
V_V2         VLB 0  AC 12
+SIN 0 12 50 0 0 -120
V_V3         VLC 0  AC 12
+SIN 0 12 50 0 0 -240
R_Raislam_Raislam_         0 GND_SIGNAL  1e-9  
V_V4         +VCC_CON GND_SIGNAL 15V
V_V5         GND_SIGNAL -VCC_CON 15V
R_R41         VA- N01693  820R  
X_U6         N01653 N01683 N01693 -VCC_CON GND_SIGNAL /VA +VCC_CON N01660
+  INA126
R_R39         N01660 N01653  1e9  
R_R38         VA+ N01683  820R  
R_RLa         0 VIA  200R  
R_RHa         VLA VIA  25.15k  
C_C34         N01693 N01683  10nF  
R_RIa         0 VIA  22k  
E_E1a         N00200 GND_SIGNAL VIA 0 4.1
X_U7         N01843 N01867 N01871 -VCC_CON GND_SIGNAL VB +VCC_CON N01851 INA126
C_Cpa         GND_SIGNAL N00203  800p  
R_Rpa         N00200 N00203  1k  
R_R46         N01851 N01843  1e9  
R_R47         VB+ N01871  820R  
R_R45         VB- N01867  820R  
C_C39         N01871 N01867  10nF  
C_CIa         0 VIA  10n  
R_R52         N02066 N02070  1e9  
X_U8         N02070 N02078 N02062 -VCC_CON GND_SIGNAL VC +VCC_CON N02066 INA126
R_R55         VC+ N02062  820R  
E_E2a         N00597 N00550 N00203 GND_SIGNAL 1
R_R48         VC- N02078  820R  
C_C44         N02062 N02078  10nF  
E_E3a         N00600 N00550 GND_SIGNAL N00203 1
V_VDCa         N00550 GND_SIGNAL 1.23V
R_Roa+         N00597 VA+  22R  
R_R0a-         N00600 VA-  22R  
R_RHb         VLB VIB  25.15k  
R_Rpb         N00965 N00969  1k  
E_E1b         N00965 GND_SIGNAL VIB 0 4.1
R_RIb         0 VIB  22k  
R_RLb         0 VIB  200R  
C_Cpb         GND_SIGNAL N00969  800p  
E_E3b         N01061 N01029 GND_SIGNAL N00969 1
C_CIb         0 VIB  10n  
E_E2b         N01057 N01029 N00969 GND_SIGNAL 1
V_VDCb         N01029 GND_SIGNAL 1.23V
R_R0b-         N01061 VB-  22R  
R_Rob+         N01057 VB+  22R  
R_RHc         VLC VIC  25.15k  
R_Rpc         N01271 N01275  1k  
E_E1c         N01271 GND_SIGNAL VIC 0 4.1
R_RIc         0 VIC  22k  
R_RLc         0 VIC  200R  
E_E3c         N01367 N01335 GND_SIGNAL N01275 1
E_E2c         N01363 N01335 N01275 GND_SIGNAL 1
C_CIc         0 VIC  10n  
C_Cpc         GND_SIGNAL N01275  800p  
R_Roc+         N01363 VC+  22R  
R_R0c-         N01367 VC-  22R  
V_VDCc         N01335 GND_SIGNAL 1.23V
X_H1Ia    VLA N05626 N04743 GND_SIGNAL Sensado_y_Trf_Clarke_H1Ia 
C_CpIa         GND_SIGNAL N04698  530pF  
R_RpIa         N04743 N04698  1k  
V_VDCIa         N05127 GND_SIGNAL 2.5V
E_E2Ia         N05195 N05127 N04698 GND_SIGNAL 1
R_RoIa+         N05195 IA+  2R  
R_RoIa-         N05127 IA-  680R  
R_R56         IA+ N05266  680R  
R_R59         IA- N05262  2R  
C_C47         N05262 N05266  3.9nF  
R_R57         N05294 N05270  2.4k  
X_U1         N05270 N05266 N05262 -VCC_CON GND_SIGNAL /IA +VCC_CON N05294
+  INA126
V_VDCIb         N06003 GND_SIGNAL 2.5V
E_E2Ib         N06015 N06003 N05975 GND_SIGNAL 1
R_RoIb-         N06003 IB-  680R  
R_RoIb+         N06015 IB+  2R  
R_R63         IB- N06099  2R  
R_R65         IB+ N06035  680R  
X_U2         N06039 N06099 N06035 -VCC_CON GND_SIGNAL IB +VCC_CON N06055 INA126
R_R64         N06055 N06039  2.4k  
C_C52         N06035 N06099  3.9nF  
X_H1Ib    VLB N06332 N05967 GND_SIGNAL Sensado_y_Trf_Clarke_H1Ib 
C_CpIb         GND_SIGNAL N05975  530pF  
R_RpIb         N05967 N05975  1k  
R_RoIc+         N07022 IC+  2R  
X_U3         N07046 N07014 N07098 -VCC_CON GND_SIGNAL IC +VCC_CON N07054 INA126
C_C57         N07098 N07014  3.9nF  
R_RoIc-         N07018 IC-  680R  
R_R70         N07054 N07046  2.4k  
E_E2Ic         N07022 N07018 N07042 GND_SIGNAL 1
R_R73         IC+ N07098  680R  
V_VDCIc         N07018 GND_SIGNAL 2.5V
R_RpIc         N07078 N07042  1k  
C_CpIc         GND_SIGNAL N07042  530pF  
R_R66         IC- N07014  2R  
X_H1Ic    VLC N07785 N07078 GND_SIGNAL Sensado_y_Trf_Clarke_H1Ic 
X_U4         GND_SIGNAL N08941 +VCC_CON -VCC_CON IALFA OPA277
R_R62         N08941 IALFA  12k  
R_R61         IC N08941  29.4k  
R_R58         /IA N08941  14.7k  
R_R60         IB N08941  29.4k  
R_R2         GND_SIGNAL IALFA  1000k  
R_R72         N09497 IBETA  11.5k  
X_U5-A         GND_SIGNAL N09699 +VCC_CON -VCC_CON N09675 OPA277
R_R67         IB N09699  12k  
R_R71         IC N09497  16.2k  
X_U5-B         GND_SIGNAL N09497 +VCC_CON -VCC_CON IBETA OPA277
R_R69         N09675 N09497  16.2k  
R_R3         GND_SIGNAL IBETA  1000k  
R_R68         N09699 N09675  12k  
R_R49         VB N13256  12k  
X_U9         GND_SIGNAL N13116 +VCC_CON -VCC_CON VALFA OPA277
R_R44         N13116 VALFA  12k  
R_R43         VC N13116  29.4k  
R_R40         /VA N13116  14.7k  
R_R42         VB N13116  29.4k  
R_R53         VC N13184  16.2k  
R_R54         N13184 VBETA  11.5k  
R_R51         N13192 N13184  16.2k  
X_U10-B         GND_SIGNAL N13184 +VCC_CON -VCC_CON VBETA OPA277
X_U10-A         GND_SIGNAL N13256 +VCC_CON -VCC_CON N13192 OPA277
R_R50         N13256 N13192  12k  
R_R20         N19019 N19007  1e9  
X_U11         N19007 N19027 N18999 -VCC_CON GND_SIGNAL VDC +VCC_CON N19019
+  INA126
R_R23         VDC+ N18999  820R  
R_R19         VDC- N19027  820R  
C_C13         N18999 N19027  10nF  
R_RHL         VL VIL  48k  
R_RpL         N18895 N18899  2k  
E_E1L         N18895 GND_SIGNAL VIL 0 0.5
R_RIL         0 VIL  1e9  
R_RLL         0 VIL  2.0k  
E_E3L         N18971 N18947 GND_SIGNAL N18899 1
E_E2L         N18967 N18947 N18899 GND_SIGNAL 1
C_CIL         0 VIL  470pF  
C_CpL         GND_SIGNAL N18899  800p  
R_RoL+         N18967 VDC+  36R  
R_RoL-         N18971 VDC-  36R  
V_VDCL         N18947 GND_SIGNAL 1.23V
R_RdcL         GND_SIGNAL VDC  1e6  
V_VLoad         VL 0  
+PULSE 20V 30V 10ms 1us 1us 10ms 40ms
R_RLOADa         N05626 N06332  22R  
R_RLOADb         N06332 N07785  22R  
R_RLOADc         N05626 N07785  22R  

.subckt Sensado_y_Trf_Clarke_H1Ia 1 2 3 4  
H_H1Ia         3 4 VH_H1Ia 0.1042
VH_H1Ia         1 2 0V
.ends Sensado_y_Trf_Clarke_H1Ia

.subckt Sensado_y_Trf_Clarke_H1Ib 1 2 3 4  
H_H1Ib         3 4 VH_H1Ib 0.1042
VH_H1Ib         1 2 0V
.ends Sensado_y_Trf_Clarke_H1Ib

.subckt Sensado_y_Trf_Clarke_H1Ic 1 2 3 4  
H_H1Ic         3 4 VH_H1Ic 0.1042
VH_H1Ic         1 2 0V
.ends Sensado_y_Trf_Clarke_H1Ic
